US08334400B2
In a four-neck 1000 mL flask equipped with a stirrer, a thermometer, a gas inlet tube, and a Dean-Stark condenser with a water measuring trap were placed 166.2 g (1.0 mol) of diglycerin, 237.3 g (1.5 mol) of isononanoic acid, and 150 mL of toluene as a solvent. Then, the reaction mixture was heated to 200 degrees C. under a flow of nitrogen gas in a rate of 20 mL/min. At the temperature, the reaction took place while distilling off the produced water with the solvent azeotropically. When the distillation-off water subsided, the temperature was raised to 220 degrees C. to further continue the reaction. When the distillation-off water stopped, the reaction was terminated. It took about 6 hours from the start of the reaction to this point. Diglycerin isononanoate was obtained as a pale yellow viscous oil in an amount of 411.5 g (hydroxyl value: 132, acid value: 0.3).

reactant | diglycerin | 1.0 mol, 166.2 g | C(C(COCC(CO)O)O)O | C6H14O5
reactant | isononanoic acid | 1.5 mol, 237.3 g | C(CCCCCC(C)C)(=O)O | C9H18O2
reactant | water | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | Diglycerin isononanoate | C(CCCCCC(C)C)(=O)O.OCC(O)CO.OCC(O)CO | InChI=1S/C9H18O2.2C3H8O3/c1-8(2)6-4-3-5-7-9(10)11;2*4-1-3(6)2-5/h8H,3-7H2,1-2H3,(H,10,11);2*3-6H,1-2H2
